US05403816
Preparation of methyl 6-amino-3-[(4,6-dimethoxypyrimidin-2-yl)oxy]picolinate
A DMF suspension (50 ml) of 3.0 g (17.8 mmol) of methyl 6-amino-3-hydroxypicolinate, 3.9 g (17.8 mmol) of 2-methylsulfonyl-4,6-dimethoxypyrimidine and 1.23 g (8.9 mmol) of potassium carbonate in a 100 ml round bottomed flask, was stirred at 80° C. for 4 hours. The reaction mixture was poured into ice water and extracted with dichloromethane. The organic layer was washed with water, dried, concentrated and purified by silica gel chromatography (n-hexane/AcOEt=1/1+0.1 MeOH) to obtain 4.43 g (yield: 81.3%) of the desired product.

reactant | methyl 6-amino-3-hydroxypicolinate | 17.8 mmol, 3.0 g | NC1=CC=C(C(=N1)C(=O)OC)O | C7H8N2O3
reactant | 2-methylsulfonyl-4,6-dimethoxypyrimidine | 17.8 mmol, 3.9 g | CS(=O)(=O)C1=NC(=CC(=N1)OC)OC | C7H10N2O4S
reactant | potassium carbonate | 8.9 mmol, 1.23 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | methyl 6-amino-3-[(4,6-dimethoxypyrimidin-2-yl)oxy]picolinate | 4.43 g, yield: 81.3% | NC1=CC=C(C(=N1)C(=O)OC)OC1=NC(=CC(=N1)OC)OC | C13H14N4O5
